US05326905
4. 4-[((1-methyl)cyclohexyl)methoxy]benzylphosphonic acid
A solution 0.7 g (2.0 mmol) of diethyl 4-[((1methyl)cyclohexyl)methoxy]benzylphosphonate and 10 ml of concentrated hydrochloric acid was refluxed for 24 hours. The reaction was cooled to room temperature, filtered and the solids were washed with water. The solids were recrystallized from EtOAc/cyclohexane to give 0.4 g of the product; m.p. 170°-172° C.

reactant | diethyl 4-[((1methyl)cyclohexyl)methoxy]benzylphosphonate | 2.0 mmol, 0.7 g | CC1(CCCCC1)COC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C19H31O4P
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-[((1-methyl)cyclohexyl)methoxy]benzylphosphonic acid | 0.4 g | CC1(CCCCC1)COC1=CC=C(CP(O)(O)=O)C=C1 | C15H23O4P
